US04816452
b. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(3,3-dichloroprop-2-en-1-yloxyimino)acetate
Ethyl (Z)-2-(3,3-dichloroprop-2-en-1-yloxyimino)-2-(2-triphenylmethylaminothiazol-4-yl)acetate (622 mg, 1.09 mmol) was dissolved in 98% formic acid (5 ml) and treated with water (1.5 ml). After stirring for 2 h the formic acid and water were removed under reduced pressure. Toluene was added and the process repeated. The residue was chromatographed on silica-gel eluting with ethyl acetate/hexane mixtures to give the title compound (298 mg, 84%) m.p. 135°-136°; [Found C, 37.25; H, 3.46; N, 13.12. C10H11Cl2N3O3S requires C, 37.05; H, 3.42; N, 12.96%]. νmax (CH2Cl2) 3475, 3380, 3110, 1735, 1605, 1530, 1375, 1180, and 1025 cm-1 ; δH (60 MHz, CDCl3) 1.30 (3H, t, J ca 7 Hz), 4.37 (2H, q, J ca 7 Hz), 4.72 (2H, d, J ca 6.5 Hz), 5.83 (2H, broad s), 6.1 (1H, t, J ca 6.5 Hz), and 6.66 (1H, s).

reactant | Ethyl (Z)-2-(3,3-dichloroprop-2-en-1-yloxyimino)-2-(2-triphenylmethylaminothiazol-4-yl)acetate | 1.09 mmol, 622 mg | ClC(=CCO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C29H25Cl2N3O3S
reactant | water | 1.5 ml | O | H2O
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(3,3-dichloroprop-2-en-1-yloxyimino)acetate | 298 mg, 84% | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC=C(Cl)Cl | C10H11Cl2N3O3S
